US04148898
200 mg of ajmaline were put in solution in an organic solvent such as chloroform or a mixture of chloroform and methanol (5 ml). A solution of 200 mg of metachloroperbenzoic acid in 5 ml of the same solvent was slowly added, with stirring, the mixture being cooled in ice. The kinetics of the reaction were followed by thin layer chromatography (alkaline Kieselgel plate; solvent CHCl3 90-MeOH 10). At the same time as the N-oxy-ajmaline, there were formed more polar secondary products, already in a important amount whereas the whole of the ajmaline was not yet transformed. The solution was diluted with chloroform, washed with an 15% aqueous solution of KHCO3, dried, filtered and dry distilled. The residue obtained, chromatographed on a silica column of activity V, gave 104 mg of N-oxyajmaline (Yield 49.5%).

reactant | ajmaline | 200 mg | CCC1C2CC3C4C5(CC(C2[C@H]5O)N3C1O)C=6C=CC=CC6N4C | C20H26N2O2
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | metachloroperbenzoic acid | 200 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methanol | 5 ml | CO | CH4O
product | N-oxy-ajmaline | CC[C@@H]1[C@H]([N+]2([C@H]3CC1C4[C@@H]2CC5([C@H]3N(C6=CC=CC=C65)C)[C@@H]4O)[O-])O | C20H26N2O3
